US04426381
7-Fluoro-8-(4-phthalidyl-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid
A mixture of 300 mg (0.9 mmol) of 7-fluoro-8-(1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid and 13.5 mg (0.9 mmol) of o-phthal aldehyde acid was suspended in 4 ml of dimethyl formamide and the whole mixture was heated with stirring at 120° C. for seven hours in an oil bath. When the reaction was completed, the mixture was allowed to cool to room temperature and, by collecting the crystals separated out therefrom by filtration, the title compound was obtained as powder. Yield 207 mg (47.7 percent). Melting point 261° to 262° C. (decomposition). Elementary analysis calculated as C24H20FN3O5S: C 59.87, H 4.19, N 8.73; Found: C 60.09, H 4.32, N 8.64.

reactant | 7-fluoro-8-(1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | 0.9 mmol, 300 mg | FC=1C=C2C(C(=C3N(C2=CC1N1CCNCC1)CCS3)C(=O)O)=O | C16H16FN3O3S
reactant | o-phthal aldehyde | 0.9 mmol, 13.5 mg | C1=CC=C(C(=C1)C=O)C=O | C8H6O2
solvent | dimethyl formamide | 4 ml | CN(C=O)C | C3H7NO
product | 7-Fluoro-8-(4-phthalidyl-1-piperazinyl)-5-oxo-1,2-dihydro-5H-thiazolo(3,2-a)-quinoline-4-carboxylic acid | FC=1C=C2C(C(=C3N(C2=CC1N1CCN(CC1)C1OC(=O)C2=CC=CC=C12)CCS3)C(=O)O)=O | C24H20FN3O5S
